US07309714B2
Step B: Benzyl (3S)-3-hydroxypyrrolidine-1-carboxylate
To a 20-L, three neck round bottom flask containing 427 g (1.62 mol) of benzyl (3S)-3-acetoxypyrrolidine-1-carboxylate was added 4 L of absolute ethanol followed by 101 g (1.57 mol) of potassium hydroxide in about 400 mL of water. After about 15 min, the reaction mixture was poured into 8 L of water and extracted with 8 L of ethyl acetate. The aqueous layer was then extracted with an additional 4 L of ethyl acetate. The combined organics were washed with brine, dried over magnesium sulfate and concentrated to a thick oil and solids.

reactant | benzyl (3S)-3-acetoxypyrrolidine-1-carboxylate | 1.62 mol, 427 g | C(C)(=O)O[C@@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
reactant | ethanol | 4 L | C(C)O | C2H6O
reactant | potassium hydroxide | 1.57 mol, 101 g | [OH-].[K+]
solvent | water | about 400 mL | O | H2O
solvent | water | 8 L | O | H2O
product | Benzyl (3S)-3-hydroxypyrrolidine-1-carboxylate | O[C@@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H15NO3
